### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Tutte's theorem

### PR DESCRIPTION
**Pull request by pimotte**
Proves Tutte's theorem.

---

- [x] depends on: #22242 
- [x] depends on: #22119 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 1]
```diff
@@ -116,4 +156,186 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      hxa hnxc hab.ne hle (aux (by simp))
+  · conv =>
+      enter [1, G', 2, 2, 1, 1]
+      rw [adj_comm]
+    rw [Subgraph.adj_comm] at hnpxb
+    apply tutte_exists_IsAlternating_IsCycles hM2 p hp hcalt (hnM2 _ hnbc) hpac hnpxb hM2ac
+      hab.symm hnbc hxa.ne.symm hle (aux (by simp))
+
+/-- Proofs the sufficiency side of Tutte's theorem -/
+lemma exists_TutteViolator (h : ∀ (M : G.Subgraph), ¬M.IsPerfectMatching)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:287]:
```suggestion
lemma exists_isTutteViolator (h : ∀ (M : G.Subgraph), ¬M.IsPerfectMatching)
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 2]
```diff
@@ -116,4 +156,186 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    (∀ (u : Set V), ¬ G.IsTutteViolator u) := by
+  classical
+  refine ⟨by rintro ⟨M, hM⟩; apply not_isTutteViolator_of_isPerfectMatching hM, ?_⟩
+  contrapose!
+  intro h
+  by_cases hvOdd : Odd (Nat.card V)
+  · exact ⟨∅, IsTutteViolator.empty hvOdd⟩
+  · exact exists_TutteViolator h (Nat.not_odd_iff_even.mp hvOdd)
+
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:340]:
```suggestion

```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 3]
```diff
@@ -5,27 +5,67 @@ Authors: Pim Otte
...
 namespace SimpleGraph
 
 universe u
-variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V} [Fintype V]
+variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V}
 
-/-- A set certifying non-existence of a perfect matching. -/
-def IsTutteViolator (G : SimpleGraph V) (u : Set V) : Prop :=
+/-- A set certifying non-existance of a perfect matching -/
+def IsTutteViolator (G: SimpleGraph V) (u : Set V) : Prop :=
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Tutte.lean]: Yep, fixed:)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -45,6 +45,10 @@ abbrev IsClique (s : Set α) : Prop :=
 theorem isClique_iff : G.IsClique s ↔ s.Pairwise G.Adj :=
   Iff.rfl
 
+lemma not_isClique_iff : ¬G.IsClique s ↔ ∃ (v w : s), v ≠ w ∧ ¬ G.Adj v w := by
+  simp only [isClique_iff, Set.Pairwise]
+  aesop
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:50]:
```suggestion
lemma not_isClique_iff : ¬G.IsClique s ↔ ∃ (v w : s), v ≠ w ∧ ¬ G.Adj v w := by
  aesop (add simp [isClique_iff, Set.Pairwise])
```
or maybe something like
```suggestion
lemma not_isClique_iff : ¬G.IsClique s ↔ ∃ (v w : s), v ≠ w ∧ ¬ G.Adj v w := by
  rw [isClique_iff]; push_neg
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 5]
```diff
@@ -576,33 +576,33 @@ lemma IsAlternating.sup_edge {u x : V} (halt : G.IsAlternating G') (hnadj : ¬G'
...
   · aesop
 
-lemma IsPerfectMatching.symmDiff_of_isAlternating (hM : M.IsPerfectMatching)
+lemma Subgraph.IsPerfectMatching.symmDiff_of_isAlternating (hM : M.IsPerfectMatching)
     (hG' : G'.IsAlternating M.spanningCoe) (hG'cyc : G'.IsCycles) :
     (⊤ : Subgraph (M.spanningCoe ∆ G')).IsPerfectMatching := by
   rw [Subgraph.isPerfectMatching_iff]
   intro v
-  simp only [toSubgraph_adj, symmDiff_def, sup_adj, sdiff_adj, Subgraph.spanningCoe_adj]
+  simp only [toSubgraph_adj, symmDiff_def, SimpleGraph.sup_adj, sdiff_adj, Subgraph.spanningCoe_adj]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:584]: Probably `Subgraph.sup_adj` should be `protected`, right?

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 6]
```diff
@@ -5,31 +5,70 @@ Authors: Pim Otte
...
 universe u
-variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V} [Fintype V]
+variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V}
 
-/-- A set certifying non-existence of a perfect matching. -/
+/-- A set certifying non-existence of a perfect matching -/
 def IsTutteViolator (G : SimpleGraph V) (u : Set V) : Prop :=
   u.ncard < ((⊤ : G.Subgraph).deleteVerts u).coe.oddComponents.ncard
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:34]:
```suggestion

```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 7]
```diff
@@ -5,31 +5,70 @@ Authors: Pim Otte
...
+/-- This lemma shows an alternating cycle exists in a specific subcase of the proof
+of Tutte's theorem -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:36]: This one is a sentence, at least 😉
```suggestion
/-- This lemma shows an alternating cycle exists in a specific subcase of the proof
of Tutte's theorem. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 8]
```diff
@@ -5,31 +5,70 @@ Authors: Pim Otte
...
+private lemma tutte_exists_IsAlternating_IsCycles {x b a c : V} {M : Subgraph (G ⊔ edge a c)}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:37]:
```suggestion
private lemma tutte_exists_isAlternating_isCycles {x b a c : V} {M : Subgraph (G ⊔ edge a c)}
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 9]
```diff
@@ -5,31 +5,70 @@ Authors: Pim Otte
...
+    G.IsTutteViolator u := by
+  simp only [IsTutteViolator, Subgraph.induce_verts, Subgraph.verts_top] at *
+  have := ncard_oddComponents_mono _ (Subgraph.deleteVerts_mono' (G := G) (G' := G') u h)
+  simp only [oddComponents] at *
+  omega
+
 /-- Given a graph in which the universal vertices do not violate Tutte's condition,
 if the graph decomposes into cliques, there exists a matching that covers
 everything except some universal vertices.
-
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:32]: I would think it is better with the line break

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 10]
```diff
@@ -116,4 +154,185 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+  · exact tutte_exists_IsAlternating_IsCycles hM2 p hp hcalt (hnM2 x' hnxc) hpac hnpxb hM2ac
+      hxa hnxc hab.ne hle (aux (by simp))
+  · conv =>
+      enter [1, G', 2, 2, 1, 1]
+      rw [adj_comm]
+    rw [Subgraph.adj_comm] at hnpxb
+    apply tutte_exists_IsAlternating_IsCycles hM2 p hp hcalt (hnM2 _ hnbc) hpac hnpxb hM2ac
+      hab.symm hnbc hxa.ne.symm hle (aux (by simp))
+
+/-- Proofs the sufficiency side of Tutte's theorem -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:285]:
```suggestion
/-- From a graph on an even number of vertices with no perfect matching, we can remove an odd number
of vertices such that there are more odd components in the resulting graph than vertices we removed.

This is the sufficiency side of Tutte's theorem. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 11]
```diff
@@ -116,4 +154,185 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    rw [Fintype.card_eq_nat_card] at hc
+    simp_rw [Fintype.card_eq_nat_card, Set.Nat.card_coe_set_eq] at hc
+    push_neg at hc
+    obtain ⟨M, hM⟩ := Subgraph.IsPerfectMatching.exists_of_isClique_supp hvEven
+      (by simpa [IsTutteViolator] using hc) h'
+    exact hMatchingFree M hM
+  · -- Deleting universal vertices does not result in only cliques
+    push_neg at h'
+    obtain ⟨K, hK⟩ := h'
+    obtain ⟨x, ⟨y, hxy⟩⟩ := (not_isClique_iff _).mp hK
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:308]:
```suggestion
    obtain ⟨x, y, hxy⟩ := (not_isClique_iff _).mp hK
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 12]
```diff
@@ -5,31 +5,68 @@ Authors: Pim Otte
...
 
 universe u
-variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V} [Fintype V]
+variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V}
 
-/-- A set certifying non-existence of a perfect matching. -/
+/-- A set certifying non-existence of a perfect matching -/
 def IsTutteViolator (G : SimpleGraph V) (u : Set V) : Prop :=
   u.ncard < ((⊤ : G.Subgraph).deleteVerts u).coe.oddComponents.ncard
+/-- This lemma shows an alternating cycle exists in a specific subcase of the proof
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:33]:
```suggestion

/-- This lemma shows an alternating cycle exists in a specific subcase of the proof
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 5 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean:584]: I have pushed (on a separate branch) a first step to this. I thought doing `open Subgraph` explicitly would bring them into scope, but that doesn't seem to work.

I think I'm doing something wrong (or introducing this is not worth the trouble it causes in other areas): https://github.com/leanprover-community/mathlib4/commit/78af12b8aa4f718a6931a08ccd4f50fc2df1e2ad

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean (hunk 9 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Tutte.lean]: Re-added

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 13]
```diff
@@ -170,6 +170,13 @@ lemma sup_edge_self : G ⊔ edge s s = G := by
 lemma lt_sup_edge (hne : s ≠ t) (hn : ¬ G.Adj s t) : G < G ⊔ edge s t :=
   left_lt_sup.2 fun h ↦ hn <| h <| (edge_adj ..).mpr ⟨Or.inl ⟨rfl, rfl⟩, hne⟩
 
+lemma edge_le_iff {v w : V} (h : v ≠ w) : edge v w ≤ G ↔ G.Adj v w := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:173]:
```suggestion
lemma edge_le_iff {v w : V} : edge v w ≤ G ↔ v = w ∨ G.Adj v w := by
```
or something like that?

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 14]
```diff
@@ -116,4 +155,188 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+  -- Neither matching contains the edge that would make the other matching of G perfect
+  have hM1nac : ¬M1.Adj a c := fun h ↦ by simpa [hnGac, edge_adj, hnac, hxa.ne, hnbc.symm, hab.ne]
+    using h.adj_sub
+  have hM2nxb : ¬M2.Adj x b := fun h ↦ by simpa [hnGxb, edge_adj, hnxb, hxa.ne, hnxc]
+    using h.adj_sub
+  have hsupG : G ⊔ edge x b ⊔ (G ⊔ edge a c) = (G ⊔ edge a c) ⊔ edge x b := by aesop
+  -- We state conditions for our cycle that hold in all cases and show that that suffices
+  suffices ∃ (G' : SimpleGraph V), G'.IsAlternating M2.spanningCoe ∧ G'.IsCycles ∧ ¬G'.Adj x b ∧
+      G'.Adj a c ∧ G' ≤ G ⊔ edge a c by
+    obtain ⟨G', ⟨hG', hG'cyc, hG'xb, hnG'ac, hle⟩⟩ := this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:184]:
```suggestion
    obtain ⟨G', hG', hG'cyc, hG'xb, hnG'ac, hle⟩ := this
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 15]
```diff
@@ -116,4 +155,188 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      rw [edge_le_iff _ (fun h ↦ hnxb (Subtype.val_injective (Subtype.val_injective h)))]
+      exact hnadjxb)
+    obtain ⟨_, hG2⟩ := hMaximal _ <| left_lt_sup.mpr (by
+      rw [edge_le_iff _ (fun h ↦ hc.1 h), adj_comm]; exact hc.2)
+    have hcnex : c ≠ x.val.val := fun hxc ↦ hc.2 (hxc ▸ hxa)
+    obtain ⟨Mcon, hMcon⟩ := tutte_exists_isPerfectMatching_of_near_matchings hxa
+      hxb hnadjxb (fun hadj ↦ hc.2 hadj.symm) (by aesop) hcnex.symm hc.1 hbnec hG1 hG2
+    exact hMatchingFree Mcon hMcon
+
+/-- Tutte's theorem -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:332]:
```suggestion
/-- **Tutte's theorem**

 Informal explanation here -/
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 16]
```diff
@@ -116,4 +155,188 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+theorem tutte : (∃ (M : Subgraph G) , M.IsPerfectMatching) ↔
+    (∀ (u : Set V), ¬ G.IsTutteViolator u) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:334]:
```suggestion
theorem tutte :
    (∃ M : Subgraph G, M.IsPerfectMatching) ↔ ∀ u, ¬ G.IsTutteViolator u := by
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 17]
```diff
@@ -116,4 +155,188 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+  classical
+  refine ⟨by rintro ⟨M, hM⟩; apply not_isTutteViolator_of_isPerfectMatching hM, ?_⟩
+  contrapose!
+  intro h
+  by_cases hvOdd : Odd (Nat.card V)
+  · exact ⟨∅, IsTutteViolator.empty hvOdd⟩
+  · exact exists_isTutteViolator h (Nat.not_odd_iff_even.mp hvOdd)
 end SimpleGraph
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:342]:
```suggestion

end SimpleGraph
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 18]
```diff
@@ -116,4 +155,188 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+
+/-- Tutte's theorem -/
+theorem tutte : (∃ (M : Subgraph G) , M.IsPerfectMatching) ↔
+    (∀ (u : Set V), ¬ G.IsTutteViolator u) := by
+  classical
+  refine ⟨by rintro ⟨M, hM⟩; apply not_isTutteViolator_of_isPerfectMatching hM, ?_⟩
+  contrapose!
+  intro h
+  by_cases hvOdd : Odd (Nat.card V)
+  · exact ⟨∅, IsTutteViolator.empty hvOdd⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:340]:
```suggestion
  · exact ⟨∅, .empty hvOdd⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 5 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean:584]: So, I think the way this works in practice is that `Subgraph.sup_adj` shadows `SimpleGraph.sup_adj`, and that's generally what we want, since if you're in the Subgraph namespace, you'll generally want the Subgraph one. 

The wip-commit doesn't compile yet, and there's a bunch more places where we'd need to add `Subgraph.` before the `sup_adj`.

As I see it now, I'd say the trade-off is fine as it currently is? (I'm good specifying the `SimpleGraph.` here to prevent doing it everywhere else)

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 19]
```diff
@@ -5,26 +5,64 @@ Authors: Pim Otte
...
 namespace SimpleGraph
 
 universe u
-variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V} [Fintype V]
+variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V}
 
-/-- A set certifying non-existence of a perfect matching. -/
+/-- A set certifying non-existence of a perfect matching -/
 def IsTutteViolator (G : SimpleGraph V) (u : Set V) : Prop :=
   u.ncard < ((⊤ : G.Subgraph).deleteVerts u).coe.oddComponents.ncard
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:32]:
```suggestion
  u.ncard < ((⊤ : G.Subgraph).deleteVerts u).coe.oddComponents.ncard

```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 20]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      obtain ⟨w, hw⟩ := hM1.1 (hM1.2 x')
+      apply hnpxb
+      obtain h1 | h2 := hx'
+      · subst h1
+        rw [hw.2 _ hM1xb, ← hw.2 _ hl.symm]
+        exact hadj.symm
+      · subst h2
+        rw [hw.2 _ hM1xb.symm, ← hw.2 _ hl.symm]
+        exact hadj
+    · exact hr
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:272]:
```suggestion
    refine (this.resolve_left fun hl ↦ ?_).1
    obtain ⟨w, hw⟩ := hM1.1 (hM1.2 x')
    apply hnpxb
    obtain h1 | h2 := hx'
    · subst h1
      rw [hw.2 _ hM1xb, ← hw.2 _ hl.1.symm]
      exact hadj.symm
    · subst h2
      rw [hw.2 _ hM1xb.symm, ← hw.2 _ hl.1.symm]
      exact hadj
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 21]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+  simp only [Finset.mem_insert, Finset.mem_singleton, cycles] at hx'
+  obtain hl | hl := hx' <;> subst hl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:274]:
```suggestion
  obtain rfl | rfl := hx'
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 22]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+
+This is the sufficiency side of Tutte's theorem. -/
+lemma exists_isTutteViolator (h : ∀ (M : G.Subgraph), ¬M.IsPerfectMatching)
+    (hvEven : Even (Nat.card V)) :
+    ∃ u, G.IsTutteViolator u := by
+  classical
+  -- It suffices to consider the edge-maximal case
+  obtain ⟨Gmax, hSubgraph, hMatchingFree, hMaximal⟩ := exists_maximal_isMatchingFree h
+  use Gmax.universalVerts
+  apply IsTutteViolator.mono hSubgraph
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:295]:
```suggestion
  refine ⟨Gmax.universalVerts, .mono hSubgraph ?_⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 23]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    obtain ⟨x, y, hxy⟩ := (not_isClique_iff _).mp hK
+    obtain ⟨p , hp⟩ := SimpleGraph.Reachable.exists_path_of_dist (K.connected_induce_supp x y)
+    obtain ⟨x, a, b, hxa, hxb, hnadjxb, hnxb⟩ := Walk.exists_adj_adj_not_adj_ne hp.2
+      (Reachable.one_lt_dist_of_ne_of_not_adj (Walk.reachable p) hxy.1 hxy.2)
+    simp only [deleteUniversalVerts, universalVerts, ne_eq, Subgraph.induce_verts,
+      Subgraph.verts_top, comap_adj, Function.Embedding.coe_subtype, Subgraph.coe_adj,
+      Subgraph.induce_adj, Subtype.coe_prop, Subgraph.top_adj, true_and] at hxa hxb hnadjxb
+    obtain ⟨c, hc⟩ : ∃ (c : V), (a : V) ≠ c ∧ ¬ Gmax.Adj c a := by
+      simpa [universalVerts] using a.1.2.2
+    have hbnec : b.val.val ≠ c := fun h ↦ hc.2 (h ▸ hxb.symm)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:319]:
```suggestion
    have hbnec : b.val.val ≠ c := by rintro rfl; exact hc.2 hxb.symm
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 24]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    obtain ⟨_, hG1⟩ := hMaximal _ <| left_lt_sup.mpr (by
+      rw [edge_le_iff (v := x.1.1) (w := b.1.1)]
+      simp [not_and, hnxb, hnadjxb, Subtype.val_injective.ne <| Subtype.val_injective.ne hnxb])
+    obtain ⟨_, hG2⟩ := hMaximal _ <| left_lt_sup.mpr (by
+      rwa [edge_le_iff (v := a.1.1) (w := c), adj_comm, not_or])
+    have hcnex : c ≠ x.val.val := fun hxc ↦ hc.2 (hxc ▸ hxa)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:325]:
```suggestion
    have hcnex : c ≠ x.val.val := by rintro rfl; exact hc.2 hxa
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 25]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    obtain ⟨Mcon, hMcon⟩ := tutte_exists_isPerfectMatching_of_near_matchings hxa
+      hxb hnadjxb (fun hadj ↦ hc.2 hadj.symm) (by aesop) hcnex.symm hc.1 hbnec hG1 hG2
+    exact hMatchingFree Mcon hMcon
+
+/-- **Tutte's theorem**
+
+ Informal explanation here -/
+theorem tutte :
+    (∃ M : Subgraph G, M.IsPerfectMatching) ↔ ∀ u, ¬ G.IsTutteViolator u := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:334]:
```suggestion
theorem tutte : (∃ M : Subgraph G, M.IsPerfectMatching) ↔ ∀ u, ¬ G.IsTutteViolator u := by
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 26]
```diff
@@ -116,4 +153,191 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    obtain ⟨_, hG2⟩ := hMaximal _ <| left_lt_sup.mpr (by
+      rwa [edge_le_iff (v := a.1.1) (w := c), adj_comm, not_or])
+    have hcnex : c ≠ x.val.val := fun hxc ↦ hc.2 (hxc ▸ hxa)
+    obtain ⟨Mcon, hMcon⟩ := tutte_exists_isPerfectMatching_of_near_matchings hxa
+      hxb hnadjxb (fun hadj ↦ hc.2 hadj.symm) (by aesop) hcnex.symm hc.1 hbnec hG1 hG2
+    exact hMatchingFree Mcon hMcon
+
+/-- **Tutte's theorem**
+
+ Informal explanation here -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:332]: That was meant as a placeholder 😅

**Comment by YaelDillies** [comment]
I noticed a few golfs to the existing code. Since I can't comment on the PR (the hunks are out of range), I've committed directly!

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 27]
```diff
@@ -5,26 +5,64 @@ Authors: Pim Otte
...
 
+## Main results
+* `SimpleGraph.tutte` states Tutte's theorem: A graph has a perfect matching, if and
+  only if no Tutte violators exist.
+-/
 namespace SimpleGraph
 
 universe u
-variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V} [Fintype V]
+variable {V : Type u} {G G' : SimpleGraph V} {u x v' w : V}
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Tutte.lean]: Manually adopted

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean (hunk 26 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Tutte.lean]: Replaced with actual explanation

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 28]
```diff
@@ -5,27 +5,69 @@ Authors: Pim Otte
...
 def IsTutteViolator (G : SimpleGraph V) (u : Set V) : Prop :=
   u.ncard < ((⊤ : G.Subgraph).deleteVerts u).coe.oddComponents.ncard
 
+/-- This lemma shows an alternating cycle exists in a specific subcase of the proof
+of Tutte's theorem. -/
+private lemma tutte_exists_isAlternating_isCycles {x b a c : V} {M : Subgraph (G ⊔ edge a c)}
+    (hM2 : M.IsPerfectMatching) (p : G'.Walk a x) (hp : p.IsPath)
+    (hcalt : G'.IsAlternating M.spanningCoe) (hM2nadj : ¬M.Adj x a)
+    (hpac : p.toSubgraph.Adj a c) (hnpxb : ¬p.toSubgraph.Adj x b) (hM2ac : M.Adj a c)
+    (hgadj : G.Adj x a) (hnxc : x ≠ c) (hnab : a ≠ b)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:43]:
```suggestion
    (p : G'.Walk a x) (hp : p.IsPath) (hcalt : G'.IsAlternating M.spanningCoe)
    (hM2nadj : ¬M.Adj x a) (hpac : p.toSubgraph.Adj a c) (hnpxb : ¬p.toSubgraph.Adj x b)
    (hM2ac : M.Adj a c) (hgadj : G.Adj x a) (hnxc : x ≠ c) (hnab : a ≠ b)
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 29]
```diff
@@ -5,27 +5,69 @@ Authors: Pim Otte
...
+    (hle : p.toSubgraph.spanningCoe ≤ G ⊔ edge a c)
+    (aux : (c' : V) → c' ≠ a → p.toSubgraph.Adj c' x → M.Adj c' x) :
+    ∃ G', G'.IsAlternating M.spanningCoe ∧ G'.IsCycles ∧
+    ¬G'.Adj x b ∧ G'.Adj a c ∧ G' ≤ G ⊔ edge a c := by
+  use p.toSubgraph.spanningCoe ⊔ edge x a
+  refine ⟨IsAlternating.sup_edge (hcalt.spanningCoe p.toSubgraph) (by simp_all)
+    (fun u' hu'x hadj ↦ by simpa [← hp.snd_of_toSubgraph_adj hadj, hp.snd_of_toSubgraph_adj hpac])
+      (fun c' hc'a hadj ↦ aux _ hc'a hadj), ?_⟩
+  refine ⟨by
+    refine fun v hv ↦ hp.isCycles_spanningCoe_toSubgraph_sup_edge hgadj.ne.symm (fun hadj ↦ ?_) hv
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:53]:
```suggestion
      ¬ G'.Adj x b ∧ G'.Adj a c ∧ G' ≤ G ⊔ edge a c := by
  refine ⟨p.toSubgraph.spanningCoe ⊔ edge x a, (hcalt.spanningCoe p.toSubgraph).sup_edge (by simpa)
    (fun u' hu'x hadj ↦ ?_) aux, ?_, ?_, by aesop, sup_le_iff.mpr ⟨hle, fun v w hvw ↦ ?_⟩⟩
  · simpa [← hp.snd_of_toSubgraph_adj hadj, hp.snd_of_toSubgraph_adj hpac]
  · refine hp.isCycles_spanningCoe_toSubgraph_sup_edge hgadj.ne.symm fun hadj ↦ ?_
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 30]
```diff
@@ -5,27 +5,69 @@ Authors: Pim Otte
...
+    rw [← Walk.mem_edges_toSubgraph, Subgraph.mem_edgeSet] at hadj
+    simp [← hp.snd_of_toSubgraph_adj hadj.symm, hp.snd_of_toSubgraph_adj hpac] at hnxc, ?_⟩
+  exact ⟨by
+    simp only [sup_adj, Subgraph.spanningCoe_adj, hnpxb, edge_adj]; aesop, by aesop,
+    sup_le_iff.mpr ⟨hle, fun v w hvw ↦ by
+      simpa [sup_adj, edge_adj,
+        adj_congr_of_sym2 _ ((adj_edge _ _).mp hvw).1.symm] using .inl hgadj⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:60]:
```suggestion
    simp [← hp.snd_of_toSubgraph_adj hadj.symm, hp.snd_of_toSubgraph_adj hpac] at hnxc
  · simp +contextual [hnpxb, edge_adj, hnab.symm]
  · simpa [edge_adj, adj_congr_of_sym2 _ ((adj_edge _ _).mp hvw).1.symm] using .inl hgadj
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 31]
```diff
@@ -38,8 +80,7 @@ private lemma Subgraph.IsMatching.exists_verts_compl_subset_universalVerts
     G.deleteUniversalVerts.coe.IsClique K.supp) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:80]:
```suggestion
      G.deleteUniversalVerts.coe.IsClique K.supp) :
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 32]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+          htw _ (by simp) (Walk.mem_support_of_adj_toSubgraph h)] at hnxb)⟩
+      have : (p'.takeUntil x' hx'p).toSubgraph.Adj a (p'.takeUntil x' hx'p).snd := by
+        apply SimpleGraph.Walk.toSubgraph_adj_snd
+        rw [Walk.nil_takeUntil]
+        aesop
+      rwa [Walk.snd_takeUntil (by
+        simp only [Finset.mem_insert, Finset.mem_singleton, cycles] at hx'
+        obtain h1 | h2 := hx'
+        · subst h1; exact hxa.ne
+        · subst h2; exact hab.ne.symm), hp'.2.1] at this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:242]:
```suggestion
  obtain ⟨x', hx', p, hp, hpac, hnpxb⟩ :
      ∃ x' ∈ ({x, b} : Finset V), ∃ (p : cycles.Walk a x'), p.IsPath ∧
        p.toSubgraph.Adj a c ∧ ¬p.toSubgraph.Adj x b := by
    obtain ⟨p, hp⟩ := hcycles.exists_cycle_toSubgraph_verts_eq_connectedComponentSupp hacc
      ⟨_, hcac⟩
    obtain ⟨p', hp'⟩ := hp.1.exists_isCycle_snd_verts_eq (by
      rwa [hp.1.adj_toSubgraph_iff_of_isCycles hcycles (hp.2 ▸ hacc)])
    obtain ⟨x', hx', hx'p, htw⟩ := Walk.exists_mem_support_forall_mem_support_imp_eq {x, b} <| by
      use x
      simp only [Finset.mem_filter, Finset.mem_insert, Finset.mem_singleton, true_or, true_and,
        cycles]
      rwa [← @Walk.mem_verts_toSubgraph, hp'.2.2, hp.2]
    refine ⟨x', hx', p'.takeUntil x' hx'p, hp'.1.isPath_takeUntil hx'p, ?_, fun h ↦ ?_⟩; swap
    · simp [htw _ (by simp) (Walk.mem_support_of_adj_toSubgraph h.symm),
        htw _ (by simp) (Walk.mem_support_of_adj_toSubgraph h)] at hnxb
    have : (p'.takeUntil x' hx'p).toSubgraph.Adj a (p'.takeUntil x' hx'p).snd := by
      apply Walk.toSubgraph_adj_snd
      rw [Walk.nil_takeUntil]
      aesop
    rwa [Walk.snd_takeUntil, hp'.2.1] at this
    simp only [Finset.mem_insert, Finset.mem_singleton, cycles] at hx'
    obtain rfl | rfl := hx'
    exacts [hxa.ne, hab.ne.symm]
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 33]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+  -- We show this path satisfies all requirements
+  obtain ⟨x', hx', p, hp, hpac, hnpxb⟩ := this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:244]:
```suggestion

```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 34]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      M2.Adj c' x' := by
+    intro hc hadj
+    have := hadj.adj_sub
+    simp only [cycles, symmDiff_def] at this
+    refine (this.resolve_left fun hl ↦ ?_).1
+    obtain ⟨w, hw⟩ := hM1.1 (hM1.2 x')
+    apply hnpxb
+    obtain h1 | h2 := hx'
+    · subst h1
+      rw [hw.2 _ hM1xb, ← hw.2 _ hl.1.symm]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:263]:
```suggestion
  have aux {x' : V} (hx' : x' ∈ ({x, b} : Set V)) (c' : V) (hc : c' ≠ a)
      (hadj : p.toSubgraph.Adj c' x') : M2.Adj c' x' := by
    refine (hadj.adj_sub.resolve_left fun hl ↦ hnpxb ?_).1
    obtain ⟨w, -, hw⟩ := hM1.1 (hM1.2 x')
    obtain rfl | rfl := hx'
    · rw [hw _ hM1xb, ← hw _ hl.1.symm]
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 35]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      exact hadj.symm
+    · subst h2
+      rw [hw.2 _ hM1xb.symm, ← hw.2 _ hl.1.symm]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:266]:
```suggestion
    · rw [hw _ hM1xb.symm, ← hw _ hl.1.symm]
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 36]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      exact hadj
+  simp only [Finset.mem_insert, Finset.mem_singleton, cycles] at hx'
+  obtain rfl | rfl := hx'
+  · exact tutte_exists_isAlternating_isCycles hM2 p hp hcalt (hnM2 x' hnxc) hpac hnpxb hM2ac
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:270]:
```suggestion
  · exact tutte_exists_isAlternating_isCycles p hp hcalt (hnM2 x' hnxc) hpac hnpxb hM2ac
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 37]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+      hxa hnxc hab.ne hle (aux (by simp))
+  · conv =>
+      enter [1, G', 2, 2, 1, 1]
+      rw [adj_comm]
+    rw [Subgraph.adj_comm] at hnpxb
+    apply tutte_exists_isAlternating_isCycles hM2 p hp hcalt (hnM2 _ hnbc) hpac hnpxb hM2ac
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:276]:
```suggestion
    exact tutte_exists_isAlternating_isCycles p hp hcalt (hnM2 _ hnbc) hpac hnpxb hM2ac
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 38]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    simp_rw [Fintype.card_eq_nat_card, Set.Nat.card_coe_set_eq] at hc
+    push_neg at hc
+    obtain ⟨M, hM⟩ := Subgraph.IsPerfectMatching.exists_of_isClique_supp hvEven
+      (by simpa [IsTutteViolator] using hc) h'
+    exact hMatchingFree M hM
+  · -- Deleting universal vertices does not result in only cliques
+    push_neg at h'
+    obtain ⟨K, hK⟩ := h'
+    obtain ⟨x, y, hxy⟩ := (not_isClique_iff _).mp hK
+    obtain ⟨p , hp⟩ := SimpleGraph.Reachable.exists_path_of_dist (K.connected_induce_supp x y)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:305]:
```suggestion
    obtain ⟨p , hp⟩ := Reachable.exists_path_of_dist (K.connected_induce_supp x y)
```

File: Mathlib/Combinatorics/SimpleGraph/Tutte.lean [hunk 39]
```diff
@@ -116,4 +150,189 @@ lemma not_isTutteViolator_of_isPerfectMatching {M : Subgraph G} (hM : M.IsPerfec
...
+    obtain ⟨x, a, b, hxa, hxb, hnadjxb, hnxb⟩ := Walk.exists_adj_adj_not_adj_ne hp.2
+      (Reachable.one_lt_dist_of_ne_of_not_adj (Walk.reachable p) hxy.1 hxy.2)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Tutte.lean:307]:
```suggestion
      (p.reachable.one_lt_dist_of_ne_of_not_adj hxy.1 hxy.2)
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 40]
```diff
@@ -170,6 +170,12 @@ lemma sup_edge_self : G ⊔ edge s s = G := by
 lemma lt_sup_edge (hne : s ≠ t) (hn : ¬ G.Adj s t) : G < G ⊔ edge s t :=
   left_lt_sup.2 fun h ↦ hn <| h <| (edge_adj ..).mpr ⟨Or.inl ⟨rfl, rfl⟩, hne⟩
 
+lemma edge_le_iff {v w : V} : edge v w ≤ G ↔ v = w ∨ G.Adj v w := by
+  by_cases h : v = w
+  · simp [h, edge_self_eq_bot]
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean]: Adopted:)

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 41]
```diff
@@ -160,16 +160,21 @@ variable [DecidableEq V] in
...
-lemma sup_edge_self : G ⊔ edge s s = G := by
-  rw [edge_self_eq_bot, sup_of_le_left bot_le]
+lemma sup_edge_self : G ⊔ edge s s = G := by simp
 
 lemma lt_sup_edge (hne : s ≠ t) (hn : ¬ G.Adj s t) : G < G ⊔ edge s t :=
   left_lt_sup.2 fun h ↦ hn <| h <| (edge_adj ..).mpr ⟨Or.inl ⟨rfl, rfl⟩, hne⟩
 
+lemma edge_le_iff {v w : V} : edge v w ≤ G ↔ v = w ∨ G.Adj v w := by
+  by_cases h : v = w
+  · simp_all
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:174]:
```suggestion
  obtain h | h := eq_or_ne v w
  · simp
```
is arguably slightly cleaner

**Review by YaelDillies — APPROVED** [review]
Great, thanks! I am happy with all this now.

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 42]
```diff
@@ -45,6 +45,9 @@ abbrev IsClique (s : Set α) : Prop :=
 theorem isClique_iff : G.IsClique s ↔ s.Pairwise G.Adj :=
   Iff.rfl
 
+lemma not_isClique_iff : ¬G.IsClique s ↔ ∃ (v w : s), v ≠ w ∧ ¬ G.Adj v w := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:48]:
```suggestion
lemma not_isClique_iff : ¬ G.IsClique s ↔ ∃ (v w : s), v ≠ w ∧ ¬ G.Adj v w := by
```

**Review by b-mehta — APPROVED** [review]

**Comment by b-mehta** [comment]
Very nice stuff!

bors d+
